US04623728
3-(4-Fluoro-3-methoxyphenyl)piperidine
To a solution of 12.3 g (60.5 mmole) of 3-(4-fluoro-3-methoxyphenyl)pyridine in a mixture of 160 ml of methanol and 20.2 ml of concentrated hydrochloric acid was added 1.6 g of platinum oxide. The resulting mixture was shaken under an atmosphere of hydrogen at an initial pressure of 50 psig for 7 hours. The reaction mixture was filtered, an additional 1 g of platinum oxide was added, and the mixture was shaken under hydrogen at a pressure of 50 psig for 2 hours. The reaction mixture was then filtered, and the bulk of the methanol was removed by evaporation in vacuo. The residual aqueous system was diluted with water, and the resulting aqueous solution was washed with ether and then basified with 100 ml of 10% sodium hydroxide. The basified mixture was extracted with diethyl ether, and the combined extracts were washed with saturated sodium chloride solution, dried (K2CO3) and evaporated in vacuo. This afforded 9 g (71% yield) of the title compound.

reactant | 3-(4-fluoro-3-methoxyphenyl)pyridine | 60.5 mmole, 12.3 g | FC1=C(C=C(C=C1)C=1C=NC=CC1)OC | C12H10FNO
solvent | methanol | 160 ml | CO | CH4O
solvent | hydrochloric acid | 20.2 ml | Cl | ClH
catalyst | platinum oxide | 1.6 g | [Pt]=O
product | 3-(4-Fluoro-3-methoxyphenyl)piperidine | 9 g, 71% yield | FC1=C(C=C(C=C1)C1CNCCC1)OC | C12H16FNO
